datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[Si:11](Cl)(Cl)[H:10].F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>C[Si+:11](Cl)Cl.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH:20]([H:10])[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1 10,11=10,20"
"CC[O:82][C:71]([C-:10]1CCCCCCCCCC[C:62]1=[O:61])=[O:72].CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1>>CC[O:82][C:71]([C:10]1([CH:20]([C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)CCCCCCCCCC[C:62]1=[O:61])=[O:72] 10=20;20,21=21,22;22,23=23"
"CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22](=[O:23])[O:39]1.CC[O:72][C:61]([C:10]1=[C:11]([O-:12])CCCCC1)=[O:62]>>CC[O:72][C:61]([C:10]1([CH:20]([C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)CCCCC[C:11]1=[O:12])=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:92][C:71]([CH-:10][C:61]1=[CH:62][CH:63]=[N:64][CH:83]=[CH:82]1)=[O:72].CN(C)C1=CC=C(C2C3[CH:20](C4=CC=C(N(C)C)C=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1>>CC[O:92][C:71]([CH:10]([CH:20](C1=CC=C(N(C)C)C=C1)C1C(C2=CC=C(N(C)C)C=C2)[Pd-2:21]1([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:61]1=[CH:62][CH:63]=[N:64][CH:83]=[CH:82]1)=[O:72] 10=20;20,21=21"
"CC(C)(C)[C@H]1CC[N:12]2C3=C(C=CC=C3)[S:62][C:11]2=[N:10]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2[C@@H](C(C)(C)C)CC[N+:12]3=[C:11]2[S:62]C2=C3C=CC=C2)[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Si](C)(C)C12[C:62]3([C:11](=[CH2:10])[C:82]4=[CH:83][CH:84]=[CH:85][CH:94]=[CH:93]4)[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]23(C#[O+])(C#[O+])C#[O+]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH2:10][C+:11]([C:62]23C4([Si](C)(C)C)[Co-3:63]2(C#[O+])(C#[O+])(C#[O+])[Co-3:73]43(C#[O+])(C#[O+])C#[O+])[C:82]2=[CH:83][CH:84]=[CH:85][CH:94]=[CH:93]2)([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20"
"C1=CC=C([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]2)C=C1.C[Si](C)(C)[C:13]1=[CH:12][CH:11]=[CH:10][O:14]1>>C[Si](C)(C)[C:13]1=[O+:14][CH:10]([CH:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:41]=[C:42](C2=CC=CC=C2)[C:53]2=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]2)[CH:11]=[CH:12]1 10,11=10,20;12,13=11,12;14=13,14"
"CC1=CC=[C:10]([B-:11]([F:62])([F:72])[F:82])O1.[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][C+:20]([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)C4C65>>CC1=CC=[C:10]([C:20]([C:31]#[C:32][C:33]23C4C5C6C7C2[Cr-3:34]65743(C#[O+])(C#[O+])C#[O+])([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)O1.[B:11]([F:62])([F:72])[F:82] 10,11=10,20"
"CC[N:10](CC)CC.FC1=CC(F)=CC(C2C3[CH:20](C4=CC(F)=CC(F)=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=C1>>CC[N+:10](CC)(CC)[CH:20](C1=CC(F)=CC(F)=C1)C1C(C2=CC(F)=CC(F)=C2)[Pd-2:21]1([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21"
"COC1=CC=[N+](C/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)[C:22](C)=[O:23])C=C1.C[N:12]1[CH:11]=[N:10][CH:61]=[CH:62]1>>COC1=CC=[N+](C[C:21]([CH:20]([N:10]2[CH:11]=[N+:12](C)[CH:62]=[CH:61]2)[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)=[C:22](C)[O-:23])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]2)C1(C)C.[NH2:10][NH:61][CH:62]=[O:63]>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([NH2+:10][NH:61][CH:62]=[O:63])[C:31]2=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]2)C1(C)C 10=20;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]C(F)(F)F)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].COC1=CC=C([C:61]([CH:10]=[S:11](C)C)=[O:62])C=C1>>COC1=CC=C([C:61]([CH:10]([S+:11](C)C)[CH:20](C(F)(F)F)[C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)=[O:62])C=C1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C1COC2(CC[C:20](=[O:21])CC2)O1.CCCC[Ge:11](CCCC)(CCCC)[H:10]>>C1COC2(CC[C:20]([H:10])([O-:21])CC2)O1.CCCC[Ge+:11](CCCC)CCCC 10,11=10,20;20,21=21"
